US04640915
A solution of N,N-diisopropyl-N-ethylamine (0.231 ml) in dichloromethane (2.08 ml) was added to a solution of 4-nitrobenzyl (2R, 5R, 6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]1-azabicyclo[3.2.0]heptane-2-carboxylate (600 mg) and 4-(N,N-dimethylamino)pyridine (13.5 mg) in dichloromethane (30.0 ml) at -30° C. To this mixture was added a solution of trifluoromethanesulfonic anhydride (0.196 ml) in dichloromethane (3.72 ml) and stirring was continued at -30° C. for 20 minutes. N,N-Diisopropyl-N-ethylamine (0.680 ml) and a solution of tetrazolo[1,5-b]pyridazine-6-thiol (0.256 g) in N,N-dimethylformamide (2.30 ml) were added to the mixture at -30° C. The resultant mixture was allowed to warm to 20° C. over a period of 2 hours, and then evaporated in vacuo. The residue was dissolved in ethyl acetate (100 ml), washed in turn with cold water (x3) and an aqueaus sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on deactivated silica gel with 15% water (7.5 g), eluting with a mixture of benzene and acetone (20:1 to 6:1). The fractions containing the desired compound were collected and diluted with benzene to result in precipitation of crystals, which, after cooling in a refrigerator, were collected by filtration to give 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-3-(tetrazolo[1,5-b]pyridazin-6-ylthio)-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.533 g). Crystallization of the mother liquor from ethyl acetate and n-hexane gave the same product (0.0663 g) as a pale yellow powder.

reactant | N,N-diisopropyl-N-ethylamine | 0.231 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (2R, 5R, 6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]1-azabicyclo[3.2.0]heptane-2-carboxylate | 600 mg | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H23N3O11
reactant | trifluoromethanesulfonic anhydride | 0.196 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-Diisopropyl-N-ethylamine | 0.680 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tetrazolo[1,5-b]pyridazine-6-thiol | 0.256 g | N=1N=NN2N=C(C=CC21)S | C4H3N5S
solvent | dichloromethane | 2.08 ml | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 13.5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 30.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3.72 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2.30 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-3-(tetrazolo[1,5-b]pyridazin-6-ylthio)-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.533 g | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1C=CC=2N(N1)N=NN2 | C29H24N8O10S
